US06673811B1
LiCl (10.6 g, 0.252 mol) is suspended in a solution of 2-(5-Methyl -3-nitro-pyridin-2-yl)-malonic acid diethyl ester (50 g, 0.168 mol) in DMSO (100 mL) containing water (12 g, 0.678 mol) and is stirred at 150° C. for 3 h. The reaction mixture is cooled, diluted with water (200 mL), and extracted with ethyl acetate. The combined organic phase are washed successively with saturated aqueous NaHCO3, water, brine, dried over Na2SO4, and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 20% EtOAc-hexanes to afford (5-Methyl-3-nitro-pyridin-2-yl)-acetic acid ethyl ester as an oil; 1H NMR (300 MHz, CDCl3) δ 1.23 (t, J=9 Hz, 3H), 4.15 (q, J=9 Hz, 2H), 4.25 (s, 2H), 8.2 (s, 1H), 8.58 (s, 1H).

reactant | LiCl | 0.252 mol, 10.6 g | [Li+].[Cl-]
reactant | 2-(5-Methyl -3-nitro-pyridin-2-yl)-malonic acid diethyl ester | 0.168 mol, 50 g | C(C)OC(C(C(=O)OCC)C1=NC=C(C=C1[N+](=O)[O-])C)=O | C13H16N2O6
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
solvent | water | 0.678 mol, 12 g | O | H2O
product | (5-Methyl-3-nitro-pyridin-2-yl)-acetic acid ethyl ester | C(C)OC(CC1=NC=C(C=C1[N+](=O)[O-])C)=O | C10H12N2O4
